Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.17022614637
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],2.0288119028
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.3876403364900005
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],3.89646891917
[O:1][C@:2]([H:3])([C:4]#[C:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.79672436429
[H:13].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.11947666883
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:4],4.68912334274
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15].[H:11],4.96563700296
[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.12128891477
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],4.423722338319999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],3.657709662
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:8]([H:9])([H:10])[O:11][H:12].[O:6][H:7],6.34221097468
[H:3][C:4]=[O:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.84827720246
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.04524721054
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:15]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.21033990338
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.8593342022759999
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2]#[C:3][C@@:4]1([H:5])[O:6][C:7]1[H:8],-1.35149790375
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.41370480807
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]=[O:7])[O:9][H:10].[H:8]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10],-1.82444244733
[O:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],4.59929940139
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:11][H:12],4.20194992718
[C:1]=[C:2]([H:3])[C:4]([O:5][O:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:4]([O:5][O:6])=[C:7]([H:8])[H:9].[H:3],3.76308400606
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]#[C:10][H:11],2.03044415877
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:5]([H:6])([H:7])=[C:8][H:9].[O:1][C:2]#[C:3][O:4],0.193917650409
[C:9]([H:10])([H:11])=[C:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.27579115293
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.147100559719999
[O:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[O:1][C:2](=[C:3]=[O:4])[C:8]([H:9])([H:10])[H:11],1.9147186493
[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10]>>[C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10].[H:1],3.52049358454
